US06503907B2
In analogy to example 3.1, 1-(4-Bromo-phenyl)-1H-indol-5-ol and 1,4-dibrombutane were converted to yield 5-(4-Bromo-butoxy)-1-(4-bromo-phenyl)-1H-indole as light yellow solid, mp 80-81° C., MS: 421 (M, 2Br).

reactant | 1-(4-Bromo-phenyl)-1H-indol-5-ol | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10BrNO
reactant | 1,4-dibrombutane | BrCCCCBr | C4H8Br2
product | 5-(4-Bromo-butoxy)-1-(4-bromo-phenyl)-1H-indole | BrCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)Br | C18H17Br2NO
